US04511569
Preparation of 2-Cyanobenzo[f]quinolin-3(4H)-one
Add 11.1 gm of 2-cyano-5,6-dihydrobenzo[f]quinolin-3(4H)-one to 1500 ml of anhydrous 1,4-dioxane containing 33.0 gm of DDQ (2,3-dichloro-5,6-dicyano-1,4-benzoquinone). Heat the system at reflux for 16 hours. Filter the solution and isolate the title compound.

reactant | 2-cyano-5,6-dihydrobenzo[f]quinolin-3(4H)-one | 11.1 gm | C(#N)C=1C(NC=2CCC3=C(C2C1)C=CC=C3)=O | C14H10N2O
reactant | DDQ | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | 1,4-dioxane | 1500 ml, 33.0 gm | O1CCOCC1 | C4H8O2
product | 2-Cyanobenzo[f]quinolin-3(4H)-one | C(#N)C=1C(NC=2C=CC3=C(C2C1)C=CC=C3)=O | C14H8N2O
